US06261738B1
49.5 g (0.263 mol) of 2,2,2-trifluoro-1-(4-methylphenyl)-ethanone are dissolved in 250 ml of ethanol at 80° C. To the solution are added dropwise 19.2 g (0.276 mol) of hydroxylammonium chloride and 36.7 g (0.447 mol) of sodium acetate dissolved in 125 ml of water. The reaction mixture is refluxed for 3.5 hours. The mixture is poured into ice water, affording a white solid. The filtration yields 39.2 g of 2,2,2-trifluoro-1-(4-methylphenyl)-ethanone oxime as a white solid, mp. 54-68° C. The crude product is used in the next step without further purification.

reactant | 2,2,2-trifluoro-1-(4-methylphenyl)-ethanone | 0.263 mol, 49.5 g | FC(C(=O)C1=CC=C(C=C1)C)(F)F | C9H7F3O
reactant | hydroxylammonium chloride | 0.276 mol, 19.2 g | [Cl-].O[NH3+]
reactant | sodium acetate | 0.447 mol, 36.7 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | 125 ml | O | H2O
product | 2,2,2-trifluoro-1-(4-methylphenyl)-ethanone oxime | 39.2 g | FC(C(=NO)C1=CC=C(C=C1)C)(F)F | C9H8F3NO
